US06528525B1
(d) 2-Butyl-3-[4-[2-(4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid
In a similar manner to that described in Example 2, a reaction was carried out using ethyl 2-butyl-3-[4-[2-(4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (1.01 g), which is the product of Reference example 17(c) and aqueous sodium hydroxide solution (1N, 3.60 ml) and the reaction mixture was treated to afford the title compound (1.00 g) as a foam powder.

reactant | ethyl 2-butyl-3-[4-[2-(4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 1.01 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=C(C(=C1)C)OCOC)C | C34H43NO6
reactant | sodium hydroxide | 1N, 3.60 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 1.00 g | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=C(C(=C1)C)OCOC)C | C32H39NO6
